data/pmechdb/original/mc_train_fold0/raw/train.txt
C[Al:20](C)Cl.C=[O:10].CCC(C)CCC=C(C)CCC=C(C)C>>C[Al-:20](C)([O+:10]=C)Cl.CCC(C)CCC=C(C)CCC=C(C)C 10=20,
[H:20][O:21]C(=O)C(=O)O.CC12CCC(=[O:10])CC1CCC2=O.C(CO)O>>[H:20][O+:10]=C1CCC2(C(C1)CCC2=O)C.C(=O)(C(=O)[O-:21])O.C(CO)O 10=20;20,21=21
CCCCCC1=CC=C(C=C1)[CH:20]([C:11](C)([C:10]2=CC=CC(=C2)C)[OH:12])[OH2+:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCCCCC1=CC=C(C=C1)[CH:20]([C:10]2=CC=CC(=C2)C)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
CC[O-:10].C[P+:20](C)(C)I>>CC[O:10][P:20](C)(C)(C)I 10=20,
[H:20][OH+:21]C(C1=C(C=CC=C1)C(=O)O)(NCCC)O.[OH2:10]>>CCCNC(C1=C(C=CC=C1)C(=O)O)(O)[OH:21].[H:20][OH2+:10] 10=20;20,21=21
[H:20][O+:21]1CCCCC1(O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1CC[O:21]C(C1)(O)O 10=20;20,21=21
CO[C:20](=[NH+:21]CC[OH:10])O>>CO[C:20]1([NH:21]CC[OH+:10]1)O 10=20;20,21=21
[H:20][OH2+:21].CCC(C)(C(C)C(=O)C)[O-:10]>>[H:20][O:10]C(C)(CC)C(C)C(=O)C.[OH2:21] 10=20;20,21=21
CCC[NH:10]CCC.C1CC[C:20](=[O+:21][Ti-](Cl)(Cl)(Cl)Cl)CC1>>CCC[NH+:10](CCC)[C:20]1(CCCCC1)[O:21][Ti-](Cl)(Cl)(Cl)Cl 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC=C2[N+](=O)[O-])C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=CC2=C1C=CC=C2[N+](=O)[O-] 10=20;20,21=21,22
[B:20](F)(F)F.CC(=[O:10])O>>[B-:20]([O+:10]=C(C)O)(F)(F)F 10=20,
CO[C:11]1=[CH:10]OC=C1.[N+:20](=O)=[O:21]>>CO[C+:11]1C=CO[CH:10]1[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
C[NH+:11]=[CH:10][S-]>>C[NH:11][CH+:10][S-] 10,11=11
CC(=O)[O:21][CH:20]1C2=C(C=CC=C2O[C:11](=[C:10]1NC(=O)C3=CC=CC=C3)[O-:12])OC.CC(=O)O.C(=O)(O)O[K].C(=O)([O-])O[K].[K+]>>CC(=O)[O-:21].COC1=C2[CH:20]=[C:10]([C:11](=[O:12])OC2=CC=C1)NC(=O)C3=CC=CC=C3.CC(=O)O.C(=O)(O)O[K].C(=O)([O-])O[K].[K+] 10,11=10,20;20,21=21;12=11
[H:20][OH2+:21].C#CC(C1=CC=C(C=C1)OCCCCC2=CN(C=[N:10]2)C(C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)O.CCO>>[H:20][N+:10]1=CN(C=C1CCCCOC2=CC=C(C=C2)C(C#C)O)C(C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5.[OH2:21].CCO 10=20;20,21=21
C1=CC=C([C:11](=[CH:10]1)CC[C+:20]=O)Br>>C1C[C+:11]2[CH:10]([C:20]1=O)C=CC=C2Br 10,11=10,20
C[P:10](C)([Mg]I)(Cl)[Cl:11]>>C[P+:10](C)([Mg]I)Cl.[Cl-:11] 10,11=11
C1=CC=C(C=C1)C(C(C2=CC=CC=C2)Cl)[O:21][C:20](=O)[O-:10]>>C1=CC=C(C=C1)C(C(C2=CC=CC=C2)Cl)[O-:21].[C:20](=O)=[O:10] 10=20;20,21=21
[H:20][C:21]12[CH+:22]C3=C(C(=C1COC4C2C=CC5C4OC(O5)(C)C)Br)OCO3.C(F)(F)(F)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C(F)(F)F.CC1(OC2C=CC3C(C2O1)OCC4=C(C5=C([CH:22]=[C:21]34)OCO5)Br)C 10=20;20,21=21,22
C[Si](C)(C)C[CH:11]=[CH2:10].C1CC=C[C:20](=[O+:21][Ti-](Cl)(Cl)(Cl)Cl)C1>>C[Si](C)(C)C[CH+:11][CH2:10][C:20]1(CCCC=C1)[O:21][Ti-](Cl)(Cl)(Cl)Cl 10,11=10,20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CCOC(=O)C(CC(=[O:10])C)C(=O)C(F)(F)F.CC1=CC=CC=C1>>[H:20][O+:10]=C(C)CC(C(=O)C(F)(F)F)C(=O)OCC.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC1=CC=CC=C1 10=20;20,21=21
[H:20][CH:21]1[C:22](=[N+:23]2CCC(C(C2)C3=CC=C(C=C3)F)N(C)C(=O)N(C)C4=CC(=CC(=C4)C(F)(F)F)C(F)(F)F)CCC1=O.CC1=CC=C(C=C1)S(=O)(=O)[O-:10].O>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.CN(C1CC[N:23](CC1C2=CC=C(C=C2)F)[C:22]3=[CH:21]C(=O)CC3)C(=O)N(C)C4=CC(=CC(=C4)C(F)(F)F)C(F)(F)F.O 10=20;22,23=23;20,21=21,22
[H:20][O:21]S(=O)(=O)O.CC(=O)CC(C1=CC=CC=C1)[OH:10]>>[H:20][OH+:10]C(CC(=O)C)C1=CC=CC=C1.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][OH:21].CC1(CCCC(=O)C1)[O-:10]>>[H:20][O:10]C1(CCCC(=O)C1)C.[OH-:21] 10=20;20,21=21
[H:20][O+:21](CC)C(C)([O-])Cl.[OH2:10]>>[H:20][OH2+:10].CC[O:21]C(C)([O-])Cl 10=20;20,21=21
[H:20][O+:21](CCCCl)S(=O)Cl.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.C(C[O:21]S(=O)Cl)CCl 10=20;20,21=21
CO[C:20](=[O:21])[CH2-:10]>>CO[C:20](=[CH2:10])[O-:21] 10=20;20,21=21
CCOC[C:20](NC1=C(N=C2C=CC=CC2=C1NCC(C)(C)O)Cl)([O-:10])[Cl:21].CC[NH+](CC)CC>>CCOC[C:20](=[O:10])NC1=C(N=C2C=CC=CC2=C1NCC(C)(C)O)Cl.[Cl-:21].CC[NH+](CC)CC 10=20;20,21=21
[H:20][O:21]C=C1C(CC2=C(C1=O)C(=C(C=C2)OC)O)CCC.CC[N:10](CC)CC.CC(=O)C=C>>[H:20][N+:10](CC)(CC)CC.CCCC1CC2=C(C(=C(C=C2)OC)O)C(=O)C1=C[O-:21].CC(=O)C=C 10=20;20,21=21
C1C[N+](C(C2=C1SC=C2)C3=CC=CC=C3)(CCO)[C:20](=[N-:10])[Br:21]>>C1C[N+](C(C2=C1SC=C2)C3=CC=CC=C3)(CCO)[C:20]#[N:10].[Br-:21] 10=20;20,21=21
COC1=CC=C(C=C1)C[CH2:20][O:21][P+:22](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.[Br-:10].C(Br)(Br)Br>>COC1=CC=C(C=C1)C[CH2:20][Br:10].C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.C(Br)(Br)Br 10=20;20,21=21,22
[H:20][Br:21].N(=O)[OH:10].C1=CN=C(C(=C1)N)Cl.O.[Na+]>>[H:20][OH+:10]N=O.[Br-:21].C1=CN=C(C(=C1)N)Cl.O.[Na+] 10=20;20,21=21
C[NH:10]CCCO[C:20](=[O:21])Cl>>C[NH+:10]1CCCO[C:20]1([O-:21])Cl 10=20;20,21=21
[BH2-:13]([CH:12]1CCC[C:10]2([CH:11]1CCC[CH:20]2[O:21]S(=O)(=O)C)C)O.[Na+]>>[BH2:13]O.C[C:10]1=[CH:20]CCC[CH:11]=[CH:12]CCC1.CS(=O)(=O)[O-:21].[Na+] 10,11=10,20;20,21=21;12,13=11,12
C[C:10](C)(C)[OH+:11]C>>C[C+:10](C)C.C[OH:11] 10,11=11
[Li-]1[N+](C([CH:10]=[C:11]([O:12]1)OC)CC[CH2:20][Br:21])(C(C)C)C(C)C>>[Li-]1[N+](C2CC[CH2:20][CH:10]2[C:11](=[O+:12]1)OC)(C(C)C)C(C)C.[Br-:21] 10,11=10,20;20,21=21;12=11
CO[CH:20]=[OH+:21].[OH2:10].[Cl-]>>CO[CH:20]([OH2+:10])[OH:21].[Cl-] 10=20;20,21=21
